2131-08-19 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2131-8-18**] 08:00 AM
 BLOOD CULTURED - At [**2131-8-18**] 11:26 AM
 SPUTUM CULTURE - At [**2131-8-18**] 11:26 AM
 URINE CULTURE - At [**2131-8-18**] 11:26 AM
 NASAL SWAB - At [**2131-8-18**] 11:26 AM
 STOOL CULTURE - At [**2131-8-18**] 11:27 AM
 INVASIVE VENTILATION - STOP [**2131-8-18**] 09:23 PM
 FEVER - 102.4
F - [**2131-8-18**] 07:00 PM
   - Hct stable
   - [**Hospital3 **] ([**Telephone/Fax (1) 8301**] - lab open from 7a-2p only on
   weekends; unable to get new cx data
   - purulent discharge from urethra -> GC/chlaymydia, Ucx, changed foley
   - tachypneic on and off vent -> VBGs OK -> decided to leave him off
   vent overnight
   - fentanyl boluses started for pain, grimacing
   - stayed febrile all day -> APAP, cooling blanket
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2131-8-19**] 05:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-19**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38
C (100.4
   HR: 131 (116 - 138) bpm
   BP: 105/86(89) {96/22(42) - 137/86(97)} mmHg
   RR: 33 (25 - 48) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  5,928 mL
                                                                    733 mL
   PO:
             TF:
                                                                     80 mL
                                                                    187 mL
   IVF:
                                                                  4,318 mL
                                                                    176 mL
   Blood products:
                                                                  1,050 mL
   Total out:
                                                                    885 mL
                                                                    715 mL
   Urine:
                                                                    885 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,043 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 1,160 (286 - 1,160) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///16/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: bilateral thigh enlargement
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   609 K/uL
   7.9 g/dL
   242 mg/dL
   0.8 mg/dL
   16 mEq/L
   3.8 mEq/L
   26 mg/dL
   115 mEq/L
   140 mEq/L
   24.4 %
   14.2 K/uL
        [image002.jpg]
                             [**2131-8-18**]  05:34 AM
                             [**2131-8-18**]  12:48 PM
                             [**2131-8-18**]  05:14 PM
                             [**2131-8-18**]  11:05 PM
                             [**2131-8-19**]  03:24 AM
   WBC
   17.5
   14.2
   Hct
   22.2
   24.3
   23.8
   24.2
   24.4
   Plt
   569
   609
   Cr
   0.8
   0.8
   Glucose
   158
   242
   Other labs: PT / PTT / INR:15.8/26.7/1.4, CK / CKMB / Troponin-T:161//,
   ALT / AST:18/35, Alk Phos / T Bili:132/0.6, Amylase / Lipase:/35,
   Differential-Neuts:70.6 %, Band:0.0 %, Lymph:19.8 %, Mono:3.7 %,
   Eos:5.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:243 IU/L,
   Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: IMPRESSION:
   1. No evidence of retroperitoneal hematoma. Bilateral intramuscular
   hematomas
   involving the adductor musculature of the proximal lower extremities.
   2. Mild residual peripancreatic fatty stranding, but likely improved.
   Correlation with pancreatic enzymes is recommended.
   3. Multiple pancreatic pseudocysts not as well visualized on the
   current
   study with no definite overall change.
   4. Cholelithiasis without cholecystitis.
   5. Small left pleural effusion and atelectasis.
   Microbiology: [**2131-8-18**] 9:58 am SPUTUM     Site: EXPECTORATED
         Source: Expectorated.
      GRAM STAIN (Final [**2131-8-18**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   28 yo man with h/o EtOH abuse, necrotizing pancreatitis, anoxic brain
   injury, and seizures, who presents from rehab facility with anemia,
   fevers, and hypotension, concerning for an acute bleed.
   # Posterior thigh hematomas: Pt was given 3 [**Location 392**] with hct change
   from 20 -> 24, now stable.  Initial concern for acute bleed from GI v.
   retroperitoneal v. bleeding into pseudocysts v. hemolysis but now clear
   that bleeding is secondary to posterior thigh hematomas in setting of
   lovenox.  No evidence of compartment syndrome though patient unable to
   answer questions related to paresthesias; DP pulses good.
   - monitor hct q8h
   - transfuse for Hct > 21
   - ortho aware of patient but will not consult at this time given
   stabilization of hct and thigh tautness
   - will not restart lovenox
   # Hypotension:  The patient was hypotensive upon arrival the the ICU,
   and he was reportedly hypotensive at [**Hospital 25**] rehab.  He was given 500
   cc NS each hour in order to obtain 50 cc UOP/h, but boluses now stopped
   with stable BP.
   - continue to follow BPs
   - LR boluses if needed given hyperchloremic metabolic acidosis
   # Fevers:  The patient has had persistent fevers for the past four
   days, accompanied with an increasing leukocytosis.  Blood cultures at
   rehab were negative to date.  DDx includes infection v. central
   process.  Also with urethral discharge.
   - Hold on antibiotics for now, as patient's blood cultures have been
   negative.  If needed, may restart Tobramycin and Ceftax (may be abx
   failure)
   - IVFs prn for insensible losses
   - f/u cx data from [**Hospital1 25**]
   - f/u urine cx, GC/chlamydia/herpes
   - stool studies pending
   # Chronic respiratory failure:  was on and off pressure support and has
   been doing well with trach mask.  Has baseline episodes of tachypnea,
   likely related to pain vs fever vs anxiety.
   - continue trach mask
   - continue fentanly boluses for pain
   - APAP and cooling blanket for fever
   # Hyperglycemia:  Sugars on arrival were 307.
    - Continue HISS and FSBG qid
   # Hypercalcemia: Continue vitamin D twice weekly for 3 more weeks and
   then recheck Ca and Vit D levels.
   # Hypothyroidism: He was recently started on Levothyroxine, and his
   dose was increased to 50 mcg daily.
    - Continue Levoxyl 50 mcg daily
   # Pancreatitis: The patient has a history of severe pancreatitis
   complicated by known necrosis and pseudocytst.  His lipase was elevated
   at [**Hospital3 **], and most recent CT scan showed enlargement of
   pseudocysts.
    - Recheck amylase/lipase tomorrow
    - F/U abdominal U/S
   # Prophylaxis: Hold on Lovenox for now; has pneumoboots
   # Access: PICC and one PIV
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-18**] 08:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-8-17**] 11:54 PM
   20 Gauge - [**2131-8-18**] 02:11 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: